US07741326B2
1-[5-Fluoro-3-(3-fluoro-benzyl)-7-(1H-pyrrol-3-yl)-benzofuran-2-yl]-ethanone (0.205 gm, 0.58 mmol), di-t-butyl dicarbonate (0.153 gm, 0.70 mmol), and DMAP (0.0232 gm, 0.18 mmol) were dissolved in acetonitrile and stirred at room temperature for 16 hours. The acetonitrile was removed under vacuum and potassium phosphate monobasic solution (0.2M) was added, and the mixture extracted with ethyl acetate. The combined organic phase was dried over magnesium sulfate and solvent was removed under vacuum to give 3-[2-acetyl-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-7-yl]-pyrrole-1-carboxylic acid tert-butyl ester (0.26 gm, 100% yield).

reactant | 1-[5-Fluoro-3-(3-fluoro-benzyl)-7-(1H-pyrrol-3-yl)-benzofuran-2-yl]-ethanone | 0.58 mmol, 0.205 gm | FC=1C=C(C2=C(C(=C(O2)C(C)=O)CC2=CC(=CC=C2)F)C1)C1=CNC=C1 | C21H15F2NO2
reactant | di-t-butyl dicarbonate | 0.70 mmol, 0.153 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.18 mmol, 0.0232 gm | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[2-acetyl-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-7-yl]-pyrrole-1-carboxylic acid tert-butyl ester | 0.26 gm, 100% yield | C(C)(C)(C)OC(=O)N1C=C(C=C1)C1=CC(=CC=2C(=C(OC21)C(C)=O)CC2=CC(=CC=C2)F)F | C26H23F2NO4
